US05294626
c) 2-tert.Butoxycarbonylamino-6-bromo-1,2,3,4-tetrahydronaphth-6-yl-3-pyridylmethanol
8.8 ml of a solution of n-butyl lithium in hexane (2.5 mol) was dropped to a solution of 3.25 g of 2-tert.butoxycarbonylamino-6-bromo-1,2,3,4-tetrahydro-naphthaline in 50 ml of absolute tetrahydrofurane cooled to -70° C. and stirring was continued for 1.5 hours at -50° C. Subsequently, 1.1 g of pyridine-3-aldehyde were dropped into the mixture at -70° C. After stirring for one hour, the reaction mixture was poured on ice and extracted with ethyl acetate. The organic Phase was washed with water, dried and evaporated. The obtained residue was recrystallised from cyclohexane/ethyl acetate.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 2.5 mol | CCCCCC | C6H14
reactant | 2-tert.butoxycarbonylamino-6-bromo-1,2,3,4-tetrahydro-naphthaline | 3.25 g | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2CC1)Br | C15H20BrNO2
reactant | pyridine-3-aldehyde | 1.1 g | N1=CC(=CC=C1)C=O | C6H5NO
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | 2-tert.Butoxycarbonylamino-6-bromo-1,2,3,4-tetrahydronaphth-6-yl-3-pyridylmethanol | C(C)(C)(C)OC(=O)NC1CC=2C=CC(CC2CC1)(Br)C(O)C=1C=NC=CC1 | C21H27BrN2O3
